US08580957B2
A solution of 3-[(2S,4R)-1-acetyl-2-methyl-4-(3-pyridinylamino)-1,2,3,4-tetrahydro-6-quinolinyl]benzoic acid (for a preparation see Example 174) (9.0 mg, 0.022 mmol) and O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluroniumhexafluorophosphate (HATU) (43.6 mg, 0.115 mmol) in N,N-dimethylformamide (DMF) (0.5 ml) was treated with N,N-diisopropylethylamine (DIPEA) (0.023 ml, 0.135 mmol) and dimethylamine (2.0M solution in THF, 0.112 ml, 0.224 mmol). The resulting mixture was stirred at room temperature for 55 min then was reduced in volume under a stream of nitrogen, diluted with acetonitrile and directly purified by MDAP to give 3-[(2S,4R)-1-acetyl-2-methyl-4-(3-pyridinylamino)-1,2,3,4-tetrahydro-6-quinolinyl]-N,N-dimethylbenzamide (5.7 mg, 0.013 mmol, 59.3% yield) as a orange gum.

reactant | 3-[(2S,4R)-1-acetyl-2-methyl-4-(3-pyridinylamino)-1,2,3,4-tetrahydro-6-quinolinyl]benzoic acid | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C=1C=C(C(=O)O)C=CC1)NC=1C=NC=CC1)C | C24H23N3O3
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluroniumhexafluorophosphate | 0.115 mmol, 43.6 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N,N-diisopropylethylamine | 0.135 mmol, 0.023 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | dimethylamine | 0.224 mmol, 2.0M, 0.112 ml | CNC | C2H7N
solvent | N,N-dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
solvent | acetonitrile | C(C)#N | C2H3N
product | 3-[(2S,4R)-1-acetyl-2-methyl-4-(3-pyridinylamino)-1,2,3,4-tetrahydro-6-quinolinyl]-N,N-dimethylbenzamide | 0.013 mmol, 5.7 mg, 59.3% yield | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C=1C=C(C(=O)N(C)C)C=CC1)NC=1C=NC=CC1)C | C26H28N4O2
